US05082961
cis-13-Octadecen-2-yn-1-ol was synthesized in the following manner. Thus, 153 g (0.81 mole) of 8-bromo-1-octyne were added dropwise at 50° to 55° C. to 1 mole of methyl magnesium chloride dissolved in 300 ml of tetrahydrofuran and the mixture was agitated for 1 hour followed by the addition of 2 g of dilithium tetrachlorocuprate Li2CuCl4. Thereafter, a solution of 1 mole of cis-4-nonenyl magnesium chloride dissolved in 300 ml of tetrahydrofuran was added dropwise to the reaction mixture at 40° to 55° C. and the mixture was agitated for 4 hours at 48° C.

reactant | 8-bromo-1-octyne | 0.81 mole, 153 g | BrCCCCCCC#C | C8H13Br
reactant | methyl magnesium chloride | 1 mole | C[Mg]Cl
reactant | cis-4-nonenyl magnesium chloride | 1 mole | C(CC\C=C/CCCC)[Mg]Cl
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | cis-13-Octadecen-2-yn-1-ol | C(C#CCCCCCCCCC\C=C/CCCC)O | C18H32O
